US07465795B2
4-amino-N-cyclobutyl-7-fluoro-8-(5-fluoro-2-methoxy-phenyl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-7-fluoro-N-cyclobutyl-cinnoline-3-carboxamide (175 mg) and 5-fluoro-2-methoxy-phenyl boronic acid (191 mg) were reacted to afford the title compound (141 mg) as white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.21 (d, 1H), 8.53 (m, 1H), 7.74 (m, 1H), 7.28 (m, 1H), 7.17 (m, 2H), 4.49 (m, 1H), 3.64 (s, 3H), 2.26-2.10(m, 4H), 1.72-1.62 (m, 2H). MS APCI, m/z=385 (M+H).

reactant | 4-amino-8-bromo-7-fluoro-N-cyclobutyl-cinnoline-3-carboxamide | 175 mg | NC1=C(N=NC2=C(C(=CC=C12)F)Br)C(=O)NC1CCC1 | C13H12BrFN4O
reactant | 5-fluoro-2-methoxy-phenyl boronic acid | 191 mg | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
product | 4-amino-N-cyclobutyl-7-fluoro-8-(5-fluoro-2-methoxy-phenyl)cinnoline-3-carboxamide | 141 mg | NC1=C(N=NC2=C(C(=CC=C12)F)C1=C(C=CC(=C1)F)OC)C(=O)NC1CCC1 | C20H18F2N4O2
